US08957070B2
7-{[2-(Methylsulfonyl)phenylsulfonyl]amino}-1H-indole-2-carboxylic acid
A mixture of ethyl 7-{[2-(methylsulfonyl)phenylsulfonyl]amino}-1H-indole-2-carboxylate (1.84 g), 8N aqueous sodium hydroxide solution (2.50 mL), tetrahydrofuran (5 mL) and methanol (5 mL) was stirred at 60° C. for 2 hr. The reaction mixture was concentrated, and water was added to the residue. The mixture was acidified with 10% aqueous citric acid solution, and the resulting crystals were filtrated, washed with water, and dried to give the title compound (1.67 g, yield 97%) as yellow crystals. melting point>304° C. (decomposition).

reactant | ethyl 7-{[2-(methylsulfonyl)phenylsulfonyl]amino}-1H-indole-2-carboxylate | 1.84 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C18H18N2O6S2
reactant | sodium hydroxide | 8N, 2.50 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 7-{[2-(Methylsulfonyl)phenylsulfonyl]amino}-1H-indole-2-carboxylic acid | 1.67 g, yield 97% | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C16H14N2O6S2
